US08604029B2
A mixture of 1-methyl-piperidine-4-carboxylic acid (0.40 g, 2.79 mmol) and thionyl chloride (0.32 mL, 4.44 mmol) in dichloromethane (10 mL) was heated to reflux for 6 h. The reaction mixture was distilled under reduced pressure and the residue dissolved in dry acetonitrile (4 mL). Trimethylsilyl diazomethane (4 mL, 8.08 mmol) was added and the mixture stirred for 2 h at ambient temperature. The reaction was cooled to 0° C. and 30% HBr in acetic acid (2 mL) added dropwise. The reaction mixture was warmed to room temperature and stirred for 1 h. The precipitate was filtered and washed with ether to afford 2-bromo-1-(1-methyl-piperidin-4-yl)-ethanone hydrobromide (200 mg, 33%).

reactant | 1-methyl-piperidine-4-carboxylic acid | 2.79 mmol, 0.40 g | CN1CCC(CC1)C(=O)O | C7H13NO2
reactant | thionyl chloride | 4.44 mmol, 0.32 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Trimethylsilyl diazomethane | 8.08 mmol, 4 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | HBr | Br | BrH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-1-(1-methyl-piperidin-4-yl)-ethanone hydrobromide | 200 mg, 33% | Br.BrCC(=O)C1CCN(CC1)C | InChI=1S/C8H14BrNO.BrH/c1-10-4-2-7(3-5-10)8(11)6-9;/h7H,2-6H2,1H3;1H
